US07371887B2
Tetraethyl p-xylylenediphosphonate (9).
α, α′-Dibromo-p-xylene (5.28 g, 20 mmol, 1 equiv.) and triethyl phosphite (10.3 mL, 60 mmol, 3 equiv.) were placed in a flask with a magnetic stirring bar. A distillation apparatus was attached to collect ethyl bromide formed along with the reaction. The mixture was immersed in an oil bath and heated to 130° C. for 2 h. After cooling down, white crystal crushed out and recrystalized from hexane to give the product (6.74 g, 89% yield). 1H NMR (CDCl3) δ7.24 (s, 4H), 4.00 (m, 8H), 3.12 (d, 4H, J=20.2 Hz), 1.23 (t, 12H, J=7.0 Hz).

reactant | α, α′-Dibromo-p-xylene | 20 mmol, 5.28 g, 1 equiv. | BrCC1=CC=C(C=C1)CBr | C8H8Br2
reactant | triethyl phosphite | 60 mmol, 10.3 mL, 3 equiv. | P(OCC)(OCC)OCC | C6H15O3P
product | Tetraethyl p-xylylenediphosphonate | 6.74 g, 89% yield | C1(=CC=C(C=C1)CP(OCC)(OCC)=O)CP(OCC)(OCC)=O | C16H28O6P2
